US05990106
13 g of 3-benzyl-1-diphenylmethoxycarbonyl-3-azabicyclo[3.2.0]heptane was dissolved in 100 ml of tetrahydrofuran, and 2.8 g of lithium chloride was added thereto. After 2.5 g of sodium borohydride was added little by little, 30 ml of methanol was slowly added thereto and the resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, mixed with ice water, and extracted with ethyl acetate. After the extract was mixed with 10% hydrochloric acid and stirred vigorously, the aqueous layer was separated. This aqueous layer was adjusted to pH 8 by the addition of a 10% aqueous solution of sodium hydroxide, and then extracted with ethyl acetate. After the extract was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (using a 4:1 mixture of n-hexane and acetone as the eluent) to obtain 5.4 g of 3-benzyl-1-hydroxymethyl-3-azabicyclo[3.2.0]heptane.

reactant | 3-benzyl-1-diphenylmethoxycarbonyl-3-azabicyclo[3.2.0]heptane | 13 g | C(C1=CC=CC=C1)N1CC2(CCC2C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H27NO2
reactant | lithium chloride | 2.8 g | [Cl-].[Li+]
reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-benzyl-1-hydroxymethyl-3-azabicyclo[3.2.0]heptane | 5.4 g | C(C1=CC=CC=C1)N1CC2(CCC2C1)CO | C14H19NO
